US07906517B2
Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (200 mg) is dissolved in ethanol (4 ml), and thereto is added 1N-aqueous sodium hydroxide solution (1 ml), and the mixture is stirred at room temperature for 3 hours. To the reaction solution are added a 1N-hydrochloric acid and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→19:1) to give 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyric acid (182 mg). The resulting 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyric acid (184 mg) is dissolved in ethanol (5 ml), and thereto is added 1N-aqueous sodium hydroxide solution (305 μl), and concentrated under reduced pressure to give 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyric acid sodium salt (184 mg). MS (m/z): 598 [M+H]+

reactant | 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyric acid | 184 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)O)C=C(C1)C(F)(F)F)(F)F | C25H20F9N3O4
reactant | sodium hydroxide | 305 μl | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyric acid sodium salt | 184 mg | [Na+].FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)[O-])CC2=C(C=CC(=C2)C(F)(F)F)O)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C25H20F9N3O4.Na/c26-23(27,28)16-3-4-20(38)15(8-16)13-37(22-35-10-19(11-36-22)41-5-1-2-21(39)40)12-14-6-17(24(29,30)31)9-18(7-14)25(32,33)34;/h3-4,6-11,38H,1-2,5,12-13H2,(H,39,40);/q;+1/p-1
